US07858623B2
5-Bromo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid (0.458 g, 1.6 mmol), 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine (0.49 g, 1.6 mmol), EDC (0.45 g, 2.3 mmol), and HOAt (0.21 g, 1.6 mmol) were added to a reaction flask then suspended in N,N-dimethylformamide (7.0 mL). N,N-diisopropylethylamine (0.95 ml, 5.5 mmol) was added to the reaction mixture and stirring was continued at room temperature overnight. The reaction mixture was diluted with ethyl acetate and water and then extracted with ethyl acetate. A precipitate formed between the layers. The aqueous layer was filtered and the precipitate collected. The filtered aqueous layer was extracted with ethyl acetate (1×). The combined ethyl acetate layers were washed with brine and then dried over sodium sulfate. The precipitate was dissolved in dichloromethane and also dried over sodium sulfate. All of the organic layers were combined and concentrated under vacuum. The remaining residue was purified by silica gel chromatography (1% methanol/dichloromethane to 2% methanol/dichloromethane) to give 5-bromo-N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide as a yellow solid (0.846 g, 1.4 mmol, 92% yield). MS (ESI pos. ion) m/z: 590 (MH+). Calc'd exact mass for C29H21BrFN3O5: 589.

reactant | 5-Bromo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxylic acid | 1.6 mmol, 0.458 g | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)C(=O)O | C12H8BrNO3
reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorobenzenamine | 1.6 mmol, 0.49 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)F | C17H15FN2O3
reactant | EDC | 2.3 mmol, 0.45 g
reactant | HOAt | 1.6 mmol, 0.21 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.95 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 7.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-bromo-N-(4-(6,7-dimethoxyquinolin-4-yloxy)-3-fluorophenyl)-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 1.4 mmol, 0.846 g, 92% yield | BrC=1C=C(C(N(C1)C1=CC=CC=C1)=O)C(=O)NC1=CC(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)F | C29H21BrFN3O5
